US07781478B2
1-Ethyl-6-methoxy-1H-indole (900 mg, 5.14 mmol) is dissolved in DMF (1.5 mL). This is added dropwise to an ice-cold solution of POCl3 (500 μL, 5.2 mmol) in DMF (1.75 ml). After stirring at room temperature for 90 minutes, the reaction mixture is re-cooled in an ice bath and is slowly quenched with 6N NaOH (4 mL). The reaction mixture is partitioned between EtOAc and H2O. Purification by silica gel chromatography (EtOAc/CH2Cl2, 5/95) yields 1-ethyl-6-methoxy-1H-indole-3-carbaldehyde (849 mg, 81%) as a yellow solid.

reactant | 1-Ethyl-6-methoxy-1H-indole | 5.14 mmol, 900 mg | C(C)N1C=CC2=CC=C(C=C12)OC | C11H13NO
reactant | POCl3 | 5.2 mmol, 500 μL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 1.5 mL | CN(C)C=O | C3H7NO
reactant | DMF | 1.75 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-6-methoxy-1H-indole-3-carbaldehyde | 849 mg, 81% | C(C)N1C=C(C2=CC=C(C=C12)OC)C=O | C12H13NO2
